US20010008903A1
Saturated aqueous potassium carbonate solution (20 ml) was added to a stirred solution of ethyl (R)-3-chloro-5-(2,3-epoxypropoxy)-4-formyloxy-benzo[b]thiophene-2-carboxylate (1.85 g, prepared as described above) in tetrahydrofuran (20 ml) and the mixture stirred for 24 hours at room temperature. The reaction mixture was poured into water (200 ml) and extracted with ethyl acetate (2×100 ml). The combined extracts were dried over sodium sulphate and evaporated under reduced pressure to give a yellow solid. Purification by flash chromatography on silica using a 1:1 mixture of petroleum ether (b.p. 60-80° C.) and ethyl acetate as eluant gave ethyl (S)-9-chloro-2,3-dihydro-2-(hydroxymethyl)thieno[3,2-f]-1,4-benzodioxin-8-carboxylate (1.44 9) as a pale-yellow solid; m.p. 165-166°C.

reactant | potassium carbonate | 20 ml | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl (R)-3-chloro-5-(2,3-epoxypropoxy)-4-formyloxy-benzo[b]thiophene-2-carboxylate | 1.85 g | ClC=1C2=C(SC1C(=O)OCC)C=CC(=C2OC=O)OC[C@H]2CO2 | C15H13ClO6S
reactant | water | 200 ml | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | ethyl (S)-9-chloro-2,3-dihydro-2-(hydroxymethyl)thieno[3,2-f]-1,4-benzodioxin-8-carboxylate | ClC1=C(SC2=C1C1=C(OC[C@@H](O1)CO)C=C2)C(=O)OCC | C14H13ClO5S
